US06747024B1
(2R)-N-[(1S)-1-(1,3-dioxolan-2-yl)-2-phenylethyl]-6-hydroxy-2,5,7,8-tetramethyl-3,4-dihydro-2H-chromene-2-carboxamide
The experimental protocol used is the same as that described for Example 14, with (R)-Trolox being used instead of intermediate 12.1 and the methyl ester of L-phenylalanine replacing the L-Leucine methyl ester. Yellow oil. LC-MS: MH+=426.2.

reactant | (R)-Trolox | CC=1C(=C2C(=C(C1O)C)CC[C@](O2)(C)C(=O)O)C | C14H18O4
reactant | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | L-Leucine methyl ester | COC([C@@H](N)CC(C)C)=O | C7H15NO2
product | (2R)-N-[(1S)-1-(1,3-dioxolan-2-yl)-2-phenylethyl]-6-hydroxy-2,5,7,8-tetramethyl-3,4-dihydro-2H-chromene-2-carboxamide | O1C(OCC1)[C@H](CC1=CC=CC=C1)NC(=O)[C@@]1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C25H31NO5
